US05889002
b) 6-Chloro-3-(1,2-dimethylpropyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (0.5 g, 1.94 mmol) in 1,2-dimethylpropylamine (5 ml) was stirred for 48 h at 100° C in a sealed flask. The cooled mixture was concentrated in vacuo and the residue was stirred with water (20 ml) followed by adjustment to pH 2 with 4M hydrochloric acid. The initially formed gummy product crystallised by stirring the mixture for about 2 h at 0° C. The precipitate was isolated by filtration, washed with water, and recrystallised from ethyl acetate/methanol followed by drying in vacuo at 60° C. over night to give 0.43 g (72%) of the pure title compound.

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 1.94 mmol, 0.5 g | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | 1,2-dimethylpropylamine | 5 ml | CC(C(C)C)N | C5H13N
product | 6-Chloro-3-(1,2-dimethylpropyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 0.43 g, 72% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC(C(C)C)C | C10H14ClN3O2S2
